US08202879B2
In tetrahydrofuran (1.5 ml) were dissolved 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline (IV-1, 120 mg) and N-(t-butoxycarbonyl)ethylaminoethoxyamine (110 mg), and 134 μl of 2 mol/L hydrochloric acid was added, then the mixture was stirred at room temperature for 4 hours. After completion of the reaction, the reaction mixture was poured into aqueous ice-cooled saturated sodium bicarbonate solution, and extracted with ethyl acetate. The organic layer was washed with water and aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting residue was purified by amino column chromatography (eluting with hexane:ethyl acetate=1:1), and further re-purified by silica gel chromatography (eluting with hexane:ethyl acetate=1:1) to obtain 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(2-(N-(t-butoxycarbonyl)-N-ethylamino)ethyloxyimino)quinazoline (V-16, 96 mg) as a yellow viscous oil.

reactant | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline | 120 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C=O | C22H15ClFN3O2
reactant | N-(t-butoxycarbonyl)ethylaminoethoxyamine | 110 mg | C(C)(C)(C)OC(=O)CCNCCON | C9H20N2O3
reactant | hydrochloric acid | 2 mol/L, 134 μl | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(2-(N-(t-butoxycarbonyl)-N-ethylamino)ethyloxyimino)quinazoline | 96 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC=2C=CC(CC12)=NOCCN(CC)C(=O)OC(C)(C)C | C30H33ClFN5O4
